US05998436
Synthesis of N-(2-amino-5-chloro-3,6-difluoropyridin-4-yl)phthalimide
To 80 ml of trifluoroacetic acid was added all amount of the N-[2-(t-butylamino)-5-chloro-3,6-difluoropyridin-4-yl]phthalimide, and the mixture was stirred at 70° C. for 5 and half hours. The solution was concentrated under reduced pressure. The precipitate was dispersed in chloroform, and collected by filtration to obtain 19.5 g of the title compound as a colorless powder.

reactant | N-[2-(t-butylamino)-5-chloro-3,6-difluoropyridin-4-yl]phthalimide | C(C)(C)(C)NC1=NC(=C(C(=C1F)N1C(C=2C(C1=O)=CC=CC2)=O)Cl)F | C17H14ClF2N3O2
solvent | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-amino-5-chloro-3,6-difluoropyridin-4-yl)phthalimide | 19.5 g | NC1=NC(=C(C(=C1F)N1C(C=2C(C1=O)=CC=CC2)=O)Cl)F | C13H6ClF2N3O2
